US06562989B2
2,6-dichloro-2′-methyl-1,1′-biphenyl (Table 14, Entry 3)
1-Bromo-2,6-dichlorobenzene (90 mg,-0.40 mmol) reacted with 2-methylphenylboronic acid (82 mg, 0.60 mmol) using 2/4 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and K3PO4 (254 mg, 1.20 mmol) in toluene at 100° C. to give the title compound (88 mg, 76%): 1H-NMR (400 MHz, CDCl3): δ 8.07 (d, 2H, J=8.07 Hz), 7.28-7.18 (m, 3H), 7.15 (t, 1H, J=8.13 Hz), 7.00 (d, 1H, J=7.25 Hz), 1.99 (s, 3H). 13C{1H}-NMR (125 MHz, CDCl3): δ 139.23, 136.91, 136.16, 135.09, 129.90, 129.04, 129.01, 128.39, 127.88, 125.81, 19.30. GC/MS(EI): (M+).

reactant | 1-Bromo-2,6-dichlorobenzene | -0.40 mmol, 90 mg | BrC1=C(C=CC=C1Cl)Cl | C6H3BrCl2
reactant | 2-methylphenylboronic acid | 0.60 mmol, 82 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | K3PO4 | 1.20 mmol, 254 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6-dichloro-2′-methyl-1,1′-biphenyl | 88 mg, 76% | ClC1=C(C(=CC=C1)Cl)C1=C(C=CC=C1)C | C13H10Cl2
